US05814567
The still wet sample then was dipped in a solution of 0.5 percent by weight of sodium polygalacturonate (Catalog No. P-1879, Sigma Chemical Company) in water for about 30 seconds. Excess solution was removed by passing the sample between the rolls of an Atlas laboratory wringer as before. The sample now contained from 200 to 250 percent by weight of a mixture of the calcium chloride and sodium polygalacturonate solutions, resulting in the formation of a calcium polygalacturonate gel coating (Coating D). The sample was dried overnight at ambient temperature.

reactant | sodium polygalacturonate | [C@@H]1([C@H]([C@H](O[C@@H]([C@@H]1O)O[C@@H]2[C@@H]([C@H]([C@H](O[C@@H]2C(=O)[O-])O[C@@H]3[C@@H]([C@H]([C@H](O[C@@H]3C(=O)[O-])O)O)O)O)O)C(=O)[O-])O)O.[Na+]
solvent | water | O | H2O
product | calcium polygalacturonate | [C@@H]1([C@H]([C@H](O[C@@H]([C@@H]1O)O)C(=O)O)O)O | C6H10O7
